US07163939B2
methyl 2-(but-3-enyloxy)-4-nitrobenzoate
2-Hydroxy-4-nitrobenzoic acid was converted to the methyl ester by heating a solution of the acid in methanol with a catalytic amount of conc. sulfuric acid. That ester (4.0 g, 20.3 mmol) was dissolved in THF (100 mL), then polymer-supported PPh3 (20 g, 3 mmol/g PPh3, 60.0 mmol), 3-buten-1-ol (2.2 mL, 1.8 g, 25.7 mmol), and di-tert-butylazodicarboxylate (5.4 g, 23.5 mmol) were added. After stirring at room temperature overnight more 3-buten-1-ol (0.8 mL, 0.7 g, 9.7 mmol) and di-tert-butylazodicarboxylate (2.0 g, 8.7 mmol) were added and the reaction was stirred another day at room temperature. The reaction was then filtered through celite, the cake washed with EtOAc, and the filtrate concentrated. The crude was purified by column chromatography using 9/1 hexanes/EtOAc. The product was recovered (4.2 g, 84%) as very pale yellow solids. MS (DCI/NH3) m/z: 252 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 2.46–2.55 (m, 2H), 3.83 (s, 3H), 4.24 (t, J=6.4 Hz, 2H), 5.09 (m, 1H), 5.18 (m, 1H), 5.90 (m, 1H), 7.83–7.87 (m, 2H), 7.88 (s, 1H).

reactant | 2-Hydroxy-4-nitrobenzoic acid | OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H5NO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | PPh3 | 60.0 mmol, 20 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-buten-1-ol | 25.7 mmol, 2.2 mL, 1.8 g | C(CC=C)O | C4H8O
reactant | di-tert-butylazodicarboxylate | 23.5 mmol, 5.4 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 3-buten-1-ol | 9.7 mmol, 0.8 mL, 0.7 g | C(CC=C)O | C4H8O
reactant | di-tert-butylazodicarboxylate | 8.7 mmol, 2.0 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
solvent | methanol | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl 2-(but-3-enyloxy)-4-nitrobenzoate | C(CC=C)OC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C12H13NO5
